US08119655B2
Compound 154: 3-bromo-N-(5-chloro-2-methoxyphenyl)-5-methylpyridin-amine
In a oven dried 50 mL round bottom flask were sequentially added 4-chloro-2-iodo-1-methoxybenzen (1.13 g, 4.2 mmol), 3-bromo-5-methylpyridin-2-amine (945 mg, 5.05 mmol), Pd2(dba)3 (192 mg, 0.21 mmol), xantphos (146 mg, 0.06 mmol) and NatBuO (605 mg, 6.3 mmol) at room temperature. The solid materials were kept under vacuum for 5 min. and then refilled with nitrogen. This process was repeated thrice before adding dry, degassed dioxane (10 mL). The heterogeneous mixture was stirred at room temperature for 15 min. and then at 100° C. for 1 h. Finally upon completion of the reaction, it was diluted with ether and filtered through a small pad of silica gel with several washings. All the washings and filtrate concentrated in vacuum and the crude residue was further purified by flash chromatography to provide title compound (1.16 g, 84%).

reactant | 4-chloro-2-iodo-1-methoxybenzen | 4.2 mmol, 1.13 g | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | 3-bromo-5-methylpyridin-2-amine | 5.05 mmol, 945 mg | BrC=1C(=NC=C(C1)C)N | C6H7BrN2
solvent | ether | CCOCC | C4H10O
catalyst | Pd2(dba)3 | 0.21 mmol, 192 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.06 mmol, 146 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 3-bromo-N-(5-chloro-2-methoxyphenyl)-5-methylpyridin-amine | 1.16 g, 84% | BrC=1C(=NC=C(C1)C)NC1=C(C=CC(=C1)Cl)OC | C13H12BrClN2O
